US08895547B2
N-(2,4-Dimethoxybenzyl)-C-(4-morpholin-4-ylmethylphenyl)methanesulfonamide
To a solution of N-(2,4-dimethoxybenzyl)-C-[4-(morpholine-4-carbonyl)phenyl]methanesulfonamide (440 mg) in THF (5 ml) was added, at 0° C., LAH (96 mg), and the mixture was warmed up to room temperature and stirred for a further 60 minutes. After the addition of water (100 μl), sodium hydroxide solution (300 μl) and water again (300 μl), the mixture was filtered and the filtrate was concentrated. This gave the product (415 mg) with a molecular weight of 420.5 g/mol (C21H28N2O5S).

reactant | N-(2,4-dimethoxybenzyl)-C-[4-(morpholine-4-carbonyl)phenyl]methanesulfonamide | 440 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)C(=O)N2CCOCC2)C=CC(=C1)OC | C21H26N2O6S
reactant | LAH | 96 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 100 μl | O | H2O
reactant | sodium hydroxide | 300 μl | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(2,4-Dimethoxybenzyl)-C-(4-morpholin-4-ylmethylphenyl)methanesulfonamide | 415 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CN2CCOCC2)C=CC(=C1)OC | C21H28N2O5S
